US05998433
a) Synthesis of 2-[3-(2-hydroxyethyl)furan-2-yl]ethanol
To a solution of the above crude 2-(3-furyl)ethanol in 200 ml of diethyl ether, 74.4 ml (119 mmol) of 1.6 M n-butyl lithium in hexane was added dropwise under ice-cooling, followed by stirring at room temperature for 1 hour. This reaction mixture was cooled to -78° C.; oxirane (obtained by adding dropwise a solution of 20.3 g (162 mmol) of 2-bromoethanol in 50 ml of tetrahydrofuran to a solution of 6.49 g (162 mmol) of sodium hydride (60% dispersion in meneral oil) in 50 ml of tetrahydrofuran, at 50° C., and trapping the resulting oxirane gas with a dry ice-acetone bath) was added; and then, 6.65 ml (54.1 mmol) of a boron trifluoride diethyl etherate was added. This reaction mixture was allowed to warm to room temperature, and stirred overnight. After aqueous sodium hydrogen carbonate was added, the reaction mixture was stirred and extracted with diethyl ether 10 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel flush column chromatography (hexane/ethyl acetate=6/1 to 3/1 to 1/1 to ethyl acetate) to yield the desired product.

reactant | 2-bromoethanol | 162 mmol, 20.3 g | BrCCO | C2H5BrO
reactant | sodium hydride | 162 mmol, 6.49 g | [H-].[Na+]
reactant | oxirane | O1CC1 | C2H4O
reactant | boron trifluoride diethyl etherate | 54.1 mmol, 6.65 ml | B(F)(F)F.CCOCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[3-(2-hydroxyethyl)furan-2-yl]ethanol | OCCC1=C(OC=C1)CCO | C8H12O3
